US07622583B2
Methoxymethyl chloride (1.2 g, 14.3 mmol) was added dropwise to a mixture of N(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-3-methyl-benzenesulfonamide (5.0 g, 12.7 mmol) and potassium carbonate (3.2 g, 23.2 mmol) in THF (30 mL) at room temperature. After 5 h, the potassium salts were removed by vacuum filtration and the filtrate was concentrated under reduced pressure. The residual light yellow solid was chromatographed on silica gel using ethyl acetate-hexane to provide the N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-methyl-benzenesulfonamide as white crystals. MS m/z 441.2 (M+H).

reactant | Methoxymethyl chloride | 14.3 mmol, 1.2 g | COCCl | C2H5ClO
reactant | N(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-3-methyl-benzenesulfonamide | 12.7 mmol, 5.0 g | BrC1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C)Cl | C12H9BrCl2N2O2S
reactant | potassium carbonate | 23.2 mmol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-methyl-benzenesulfonamide | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C)COC)Cl | C14H13BrCl2N2O3S
